US07649002B2
(4S)-4-Benzyl-3-{[(3S,4R)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidin-3-yl]carbonyl}-1,3-oxazolidin-2-one
To a stirred solution of (4S)-4-benzyl-3-[(2E)-3-(2,4-difluorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one, from preparation 28 (46.83 g, 140 mmol) in dichloromethane (300 mL) was added N-methoxymethyl-N-(trimethylsilylmethyl)benzylamine (50.2 mL, 210 mmol) at room temperature. The solution was cooled to −12° C. and a solution of trifluoroacetic acid (1.05 mL) in dichloromethane (10 mL) was added dropwise. The reaction mixture was warmed to room temperature and stirred for 24 hours and saturated sodium hydrogen carbonate solution (180 mL) was added. The phases were separated and the aqueous phase was extracted with dichloromethane (180 mL). The organic extracts were combined, dried over magnesium sulfate, filtered and concentrated in vacuo to afford the crude residue. Purification of the residue by column chromatography using toluene:methyl tert-butyl ether (12:1) followed by dichloromethane:methyl tert-butyl ether (19:1) as the eluent afforded the title compound (which is the second eluting diastereomer), 63.0 g (49%).

reactant | (4S)-4-benzyl-3-[(2E)-3-(2,4-difluorophenyl)prop-2-enoyl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(\C=C\C1=C(C=C(C=C1)F)F)=O | C19H15F2NO3
reactant | N-methoxymethyl-N-(trimethylsilylmethyl)benzylamine | 210 mmol, 50.2 mL | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | trifluoroacetic acid | 1.05 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | 180 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (4S)-4-Benzyl-3-{[(3S,4R)-1-benzyl-4-(2,4-difluorophenyl)pyrrolidin-3-yl]carbonyl}-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(=O)[C@@H]1CN(C[C@H]1C1=C(C=C(C=C1)F)F)CC1=CC=CC=C1 | C28H26F2N2O3
